US05656660
A solution of di-tert-butyl dicarbonate (5.0 g, 0.023 mol, 1.0 equiv) in tetrahydrofuran (100 mL) was added dropwise over 4 h to a mixture of 1,4-cyclohexane-bis(methylamine) (30 mL, 0.18 mol, 8.0 equiv) in tetrahydrofuran (150 mL). The resulting white suspension was stirred at 23° C. for 24 h, then partitioned between dichloromethane, water (three portions), and saturated aqueous sodium chloride. The organic layer was dried over sodium sulfate and concentrated to give crude N-mono(Boc)-1,4-cyclohexane-bis(methylamine) as a yellow solid.

reactant | di-tert-butyl dicarbonate | 0.023 mol, 5.0 g, 1.0 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,4-cyclohexane-bis(methylamine) | 0.18 mol, 30 mL, 8.0 equiv | C1(CCC(CC1)CN)CN | C8H18N2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | N-mono(Boc)-1,4-cyclohexane-bis(methylamine) | C(=O)(OC(C)(C)C)NCC1CCC(CC1)CN | C13H26N2O2
